US07956216B2
8A: N-benzyl 3-phenylbenzamide
Oxalyl chloride (132 μL, 1.5 mmol) was added over a 10 minute period to a mixture of 3-phenylbenzoic acid (200 mg, 1 mmol) dissolved in a mixture THF/DMF (3.5 mL/58 μL). After the addition, the reaction was stirred at room temperature for 2.5 hours. Benzylamine (268 μL, 2.5 mmol) was then added into half of the acid chloride solution at 0° C. The reaction mixture was then stirred at room temperature for 18 hours. The reaction mixture was concentrated and water was added to the residue. The aqueous phase was extracted 3 times with CH2Cl2 and the combined organic layers were washed with 2N HCl, saturated NaHCO3, brine, dried over Na2SO4 and concentrated. Diethyl ether was added to the residue and a white solid precipitated which was collected by filtration and rinsed with a small amount of diethyl ether. The white solid was then dried under vacuum (105 mg, 73%). NMR 1H (ppm, CDCl3): 8.01 (s, 1H), 7.72 (t, J3=7.89 Hz, 2H), 7.58 (d, J3=7.14 Hz, 2H), 7.49-7.24 (m, 9H), 6.57 (br. s., 1H), 4.64 (d, J3=5.29 Hz, 2H).

reactant | Oxalyl chloride | 1.5 mmol, 132 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-phenylbenzoic acid | 1 mmol, 200 mg | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O2
reactant | Benzylamine | 2.5 mmol, 268 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | THF DMF | 3.5 mL | C1CCOC1.CN(C)C=O
product | N-benzyl 3-phenylbenzamide | C(C1=CC=CC=C1)NC(C1=CC(=CC=C1)C1=CC=CC=C1)=O | C20H17NO
